US06936602B1
In DMF (5.5 ml) was dissolved 7-(4-ethoxy-3-fluorophenyl)-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (398 mg). To the solution was added thionyl chloride (0.20 ml), and the mixture was stirred at room temperature for 30 minutes. Under reduced pressure, the solvent was evaporated, and to the residue was added THF (10.0 ml). On the other hand, to 4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]aniline dihydrochloride (394 mg) was added THF (10.0 ml), and then was added triethylamine (1.17 ml). To the obtained mixture was added dropwise at 0° C. the previously prepared acid chloride suspension, and the mixture was stirred at room temperature for 4 hours. To the mixture was added ethyl acetate, and the mixture was washed with water, 1N sodium hydroxide solution, water and saturated brine. The organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethanol to give 7-(4-ethoxy-3-fluorophenyl)-1-formyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (453 mg, 73%) as white crystals.

reactant | 7-(4-ethoxy-3-fluorophenyl)-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 398 mg | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)O)C1)F | C20H18FNO4
reactant | thionyl chloride | 0.20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 5.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-ethoxy-3-fluorophenyl)-1-formyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 453 mg, 73% | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1)F | C33H36FN3O4
